US08106077B2
4,4,4-Trifluoro-2-butynoic acid ethyl ester
A mixture of ethyl 4,4,4-trifluoro-2-(triphenylphosphoranylidene)acetoacetate (270 g, 617 mmol) and potassium carbonate (54 g, 490 mmol) is heated from 160° C. to 225° C. in 3 h at 2-3 mbar vacuum. The title compound is distilled and recovered in a cold trap to yield the title compound (85 g, 83%) as a slightly yellow oil. ES/MS m/e 167 (M+1).

reactant | ethyl 4,4,4-trifluoro-2-(triphenylphosphoranylidene)acetoacetate | 617 mmol, 270 g | FC(C(C(C(=O)OCC)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)(F)F | C24H20F3O3P
reactant | potassium carbonate | 490 mmol, 54 g | C([O-])([O-])=O.[K+].[K+]
product | 4,4,4-Trifluoro-2-butynoic acid ethyl ester | 85 g, 83% | C(C)OC(C#CC(F)(F)F)=O | C6H5F3O2
